US08114886B2
5-[[(4-Fluorophenyl)sulfinyl](2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide
To a solution of 5-[[(4-fluorophenyl)thio](2,3,6-trifluorophenyl)methyl]-4-m ethylpyridine-2-carboxamide (389 mg, 0.96 mmol) in methylene chloride (10 ml), 3-chloroperbenzoic acid (254 mg, 0.96 mmol) was added at 0° C. After stirring for 13 days at room temperature, the reaction mixture was washed with 1 N aqueous sodium hydroxide. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to preparative thin-layer chromatography (developed with hexane:ethyl acetate=1:2, eluted with methylene chloride:methanol=4:1). The obtained fraction was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of ethanol and diethyl ether, and was collected by filtration, to obtain the title compound (78 mg, 0.18 mmol, 19%) as a white solid.

reactant | 5-[[(4-fluorophenyl)thio](2,3,6-trifluorophenyl)methyl]-4-m ethylpyridine-2-carboxamide | 0.96 mmol, 389 mg | FC1=CC=C(C=C1)SC(C=1C(=CC(=NC1)C(=O)N)C)C1=C(C(=CC=C1F)F)F | C20H14F4N2OS
reactant | 3-chloroperbenzoic acid | 0.96 mmol, 254 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | 5-[[(4-Fluorophenyl)sulfinyl](2,3,6-trifluorophenyl)methyl]-4-methylpyridine-2-carboxamide | 0.18 mmol, 78 mg, 19% | FC1=CC=C(C=C1)S(=O)C(C=1C(=CC(=NC1)C(=O)N)C)C1=C(C(=CC=C1F)F)F | C20H14F4N2O2S
